US08748418B2
Prepared in an analogous manner as described for intermediate A22A from (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione (intermediate A19B) (96 mg, 302 μmol) and commercially available 6-chlorobenzofuran-3(2H)-one [CAS no 3260-78-4] (61.0 mg, 362 μmol) The (5R)-5-(5-(6-chloro-2,3-dihydrobenzofuran-3-ylamino)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione (72 mg, 153 μmol, 50.7% yield) was obtained as a light yellow foam. MS (ISN): m/z=469.1 [(M−H)−] and 471.2 [(M+2-H)−].

reactant | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione | 302 μmol, 96 mg | NC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=S)C)F | C14H17F3N2OS
reactant | 6-chlorobenzofuran-3(2H)-one | ClC1=CC2=C(C(CO2)=O)C=C1 | C8H5ClO2
product | (5R)-5-(5-(6-chloro-2,3-dihydrobenzofuran-3-ylamino)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione | 153 μmol, 72 mg, 50.7% yield | ClC1=CC2=C(C(CO2)NC=2C=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=S)C)F)C=C1 | C22H22ClF3N2O2S
